US06090802
To a suspension of 1-methyl-L-proline (600 mg) and (3S)-3-amino-1-(tert-butoxycarbonyl)pyrrolidine (758 mg) in anhydrous DMF (10 ml), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (856 mg) and 1-hydroxybenzotriazole (550 mg) were added. The mixture was stirred overnight at room temperature. To the reaction mixture, ethyl acetate was added. The resulting mixture was washed with an aqueous solution of sodium carbonate, 15% saline and saturated saline, dried over anhydrous magnesium sulfate and then concentrated by evaporation under reduced pressure. The residue was purified by chromatography through a silica gel column (ethyl acetate, 5% methanol/ethyl acetate, 10% methanol/ethyl acetate), whereby 1.11 g of (3S)-1-(tert-butoxycarbonyl)-3-(1-methyl-L-prolylamino)pyrrolidine were obtained.

reactant | 1-methyl-L-proline | 600 mg | CN1[C@H](C(=O)O)CCC1 | C6H11NO2
reactant | (3S)-3-amino-1-(tert-butoxycarbonyl)pyrrolidine | 758 mg | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 856 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 550 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S)-1-(tert-butoxycarbonyl)-3-(1-methyl-L-prolylamino)pyrrolidine | 1.11 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC([C@H]1N(CCC1)C)=O | C15H27N3O3
